US07427630B2
(5-Methoxy-2-nitro-phenyl)-methanol
To a suspension of cyanuric chloride (1.84 g, 1 eq) in anh. DME (60 mL) at r.t., under N2, was added NMM (1.1 mL, 1 eq). The reaction mixture was stirred for 2 min and a precipitate was formed. A solution of 5-(methyloxy)-2-nitrobenzoic acid (2.0 g, 10 mmol) in anh. DME (20 mL) was added and the reaction mixture was stirred for 4 hr. The suspension was filtered and a solution of NaBH4 (0.57 g, 1.5 eq) in water (30 mL) was added at 0° C. The reaction mixture was stirred for 20 min at 0° C. It was then diluted with Et2O (10 mL) and acidified to pH 5 by addition of sat. aq. NH4Cl. The phases were separated and the aqueous layer was extracted with Et2O (2×100 mL). The combined organic extracts were washed with sat. aq. Na2CO3 and dried over anh. Na2SO4. The solids were filtered and the solvent evaporated to dryness. The crude product was purified by flash chromatography (silica gel, cHex/EtOAc 8:2) to give the title compound (958 mg, 53%).

reactant | cyanuric chloride | 1.84 g, 1 eq | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | NMM | 1.1 mL, 1 eq | CN1CCOCC1 | C5H11NO
reactant | 5-(methyloxy)-2-nitrobenzoic acid | 10 mmol, 2.0 g | COC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C8H7NO5
reactant | NaBH4 | 0.57 g, 1.5 eq | [BH4-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DME | 60 mL | COCCOC | C4H10O2
solvent | DME | 20 mL | COCCOC | C4H10O2
solvent | water | 30 mL | O | H2O
solvent | Et2O | 10 mL | CCOCC | C4H10O
product | (5-Methoxy-2-nitro-phenyl)-methanol | 958 mg, 53% | COC=1C=CC(=C(C1)CO)[N+](=O)[O-] | C8H9NO4
